US08022205B2
From bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (81 mg) and acetyl-(4-bromo-phenyl)-carbamic acid tert-butyl ester (prepared from N-(4-bromo-phenyl)-acetamide and di-t butyl carbonate in acetonitrile in the presence of DMAP, 94 mg) instead of 4-bromobenzoic acid methyl ester in Example 1-D-08, in the same manner as Example 1-D-08, a crude product of acetyl-[4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-carbamic acid tert-butyl ester was obtained, and then the PMB groups were removed according to Deprotection method 1, to obtain the desired compound (D-43) as a pale yellow powder (7 mg, 17%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 81 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | acetyl-(4-bromo-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC=C(C=C1)Br)C(C)=O)=O | C13H16BrNO3
reactant | N-(4-bromo-phenyl)-acetamide | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
reactant | di-t butyl carbonate | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | 4-bromobenzoic acid methyl ester | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | acetyl-[4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)C(C)=O)=O | C43H48N8O6
